US04529721
Methyl 2-(1-carboxy-1-chloromethylene)-1,3-dithietane-4-carboxylate (1.29 g) and oxalyl chloride (700 μl) are reacted together in ethyl ether in the presence of N,N-dimethylformamide (50 μl), and the reaction mixture is concentrated under reduced pressure. The resulting residue comprising methyl 2-(1-chlorocarbonyl-1-chloromethylene)-1,3-dithietane-4-carboxylate is dissolved in THF (70 ml) and reacted with lithium tri-t-butoxyalminum hydride (1.36 g) at -78° C. for 30 minutes. The reaction mixture is diluted with a mixture of ethyl acetate and dil. HCl, and the organic layer is separated after vigorous stirring. The separated organic layer is dried, vacuum concentrated, and purified by chromatography over silica gel to give methyl 2-(1-chloro-1-formylmethylene)-1,3-dithietane-4-carboxylate. Yield: 328 mg (27%).

reactant | Methyl 2-(1-carboxy-1-chloromethylene)-1,3-dithietane-4-carboxylate | 1.29 g | C(=O)(O)C(Cl)=C1SC(S1)C(=O)OC | C6H5ClO4S2
reactant | oxalyl chloride | 700 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 50 μl | CN(C=O)C | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl | Cl | ClH
product | methyl 2-(1-chloro-1-formylmethylene)-1,3-dithietane-4-carboxylate | ClC(C=O)=C1SC(S1)C(=O)OC | C6H5ClO3S2
